US04760136
Synthesis of N,N-Dimethyl-β-Amino-Isobutyric Acid (Used for Preparing Compound No. 1)
In 1.0 ml of water was dissolved 1.5 g of methyl malonate, after which 1.26 g of a 50% aqueous dimethylamine solution and 0.96 ml of a 37% aqueous formaldehyde solution were added with stirring at 0° C., and the resulting mixture was stirred at 0° to 5° C. for 3 hours and then at 80° C. for 30 minutes.

reactant | methyl malonate | 1.5 g | C(CC(=O)[O-])(=O)OC
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
solvent | water | 1.0 ml | O | H2O
product | N,N-Dimethyl-β-Amino-Isobutyric Acid | CN(CC(C(=O)O)C)C | C6H13NO2
